US07417157B2
6.1 4-(4-Butoxy-2,3-difluorophenyl)-4′-propylbicyclohexyl-4-ol
31.0 g (0.17 mol) of 1-butoxy-2,3-difluorobenzene are initially introduced in 200 ml of THF, and 100 ml (0.16 mol) of n-BuLi (15% soln. in hexane) are added at −70° C. After 2 h at this temperature, a solution of 35.6 g (0.16 mol) of 4′-propylbicyclohexyl-4-one in 200 ml of THF is metered in, and the batch is stirred for 2.5 h. The reaction mixture is hydrolysed with ice-cooling and acidified using 2 N HCl. The solution is extracted with MTBE, and the combined organic phases are washed with sat. sodium chloride solution and dried using sodium sulfate. The solution is concentrated to dryness, and the crude product (66.3 g of yellow solid) is used directly for the following reaction.

reactant | 1-butoxy-2,3-difluorobenzene | 0.17 mol, 31.0 g | C(CCC)OC1=C(C(=CC=C1)F)F | C10H12F2O
reactant | n-BuLi | 0.16 mol, 100 ml | [Li]CCCC
reactant | 4′-propylbicyclohexyl-4-one | 0.16 mol, 35.6 g | C(CC)C1CCC(CC1)C1CCC(CC1)=O | C15H26O
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-(4-Butoxy-2,3-difluorophenyl)-4′-propylbicyclohexyl-4-ol | C(CCC)OC1=C(C(=C(C=C1)C1(CCC(CC1)C1CCC(CC1)CCC)O)F)F | C25H38F2O2
